US08563573B2
In a 100 mL autoclave, a solution of 5-chloro-2-(1-methylcyclopropyl)-1H-pyrrolo[2,3-c]pyridine (1.0 g, 4.9 mmol) and CuSO4′5H2O (100 mg, 0.4 mmol) in aqueous ammonia (60 mL) and EtOH (20 mL) was heated to 200° C. and stirred at this temperature for 8 hours. The mixture was allowed to cool down to room temperature. The alcohol was removed under vacuum. The resulting mixture was extracted with ethyl acetate (50 mL×3). The combined organic layer was dried over anhydrous Na2SO4 and purified by chromatography on silica gel (2% CH3OH in dichloromethane as eluant) to afford 2-(1-methylcyclopropyl)-1H-pyrrolo[2,3-c]pyridin-5-amine (250 mg, 27%). 1H-NMR (DMSO, 300 MHz) δ 7.96 (s, 1H), 6.37 (s, 1H), 5.88 (d, J=1.2, 1H), 5.01 (br s, 2H), 1.41 (s, 3H), 0.98 (t, J=2.1, 2H), 0.80 (t, J=2.1, 2H).

reactant | 5-chloro-2-(1-methylcyclopropyl)-1H-pyrrolo[2,3-c]pyridine | 4.9 mmol, 1.0 g | ClC=1C=C2C(=CN1)NC(=C2)C2(CC2)C | C11H11ClN2
reactant | ammonia | 60 mL | N | H3N
solvent | EtOH | 20 mL | CCO | C2H6O
product | 2-(1-methylcyclopropyl)-1H-pyrrolo[2,3-c]pyridin-5-amine | 250 mg, 27% | CC1(CC1)C1=CC=2C(=CN=C(C2)N)N1 | C11H13N3
